US05686445
5,6-Dihydro-2-methyl-6-(4-nitrobenzoyl)-4H-thiazolo[5,4-d][1]benzazepine
A mixture of 1.19 g of 4-bromo-1,2,3,4-tetrahydro-1-(4-nitrobenzoyl)-5H-1-benzazepin-5-one and 0.230 g of thioacetamide in 4 ml of ethyl alcohol is refluxed under argon for 18 hours. The volatiles are evaporated in vacuo to a residue which is partitioned between CHCl3 and 10% NaHCO3. The organic layer is separated and washed twice with water. The organic layer is separated, dried (MgSO4) and evaporated in vacuo to give 1.08 g of yellow foam which is purified by flash chromatography on silica by elution with 4% ethyl acetate in methylene chloride to give 560 mg of the desired product as pale yellow foam.

reactant | 4-bromo-1,2,3,4-tetrahydro-1-(4-nitrobenzoyl)-5H-1-benzazepin-5-one | 1.19 g | BrC1CCN(C2=C(C1=O)C=CC=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O | C17H13BrN2O4
reactant | thioacetamide | 0.230 g | C(C)(=S)N | C2H5NS
solvent | ethyl alcohol | 4 ml | C(C)O | C2H6O
product | 5,6-Dihydro-2-methyl-6-(4-nitrobenzoyl)-4H-thiazolo[5,4-d][1]benzazepine | 1.08 g | CC=1SC=2CCN(C3=C(C2N1)C=CC=C3)C(C3=CC=C(C=C3)[N+](=O)[O-])=O | C19H15N3O3S
